US07906517B2
(3-Benzyloxy-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (215 mg) is dissolved in methanol (10.5 ml), and thereto is added 10% palladium-carbon and the mixture is stirred under hydrogen atmosphere at room temperature for 1 hour. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=4:1→1:2, and chloroform:methanol 19:1→9:1) to give 3-{[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenol (98 mg). MS (m/z): 661 [M+H]+

reactant | (3-Benzyloxy-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 215 mg | C(C1=CC=CC=C1)OC=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F | C41H40F6N4O3
solvent | methanol | 10.5 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 3-{[(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-phenol | 98 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=NC=C(C=N1)N1CCOCC1)CC=1C=C(C=C(C1)C(F)(F)F)O)OC | C34H34F6N4O3
